US04684739
In 50 ml of tetrahydrofuran is suspended 1.5 g of lithium aluminum hydride and a solution of 6.0 g of N-[3-{(1,4-benzodioxan-2-yl}methyl)amino propionyl]-3,4-methylenedioxyaniline prepared according to the procedure described in Example 6 dissolved in 10 ml of tetrahydrofuran is added dropwise to the suspension. After completion of the dropwise addition, the mixture is stirred for 4 hours at 50° C. After completion of the reaction, the reaction mixture is subjected to the post-treatment for lithium aluminum hydride in the conventional manner and the resulting precipitates including aluminum hydroxide are removed by filtration. The filtrate is concentrated and then dissolved in ethyl acetate and the resulting solution is washed with saturated sodium chloride solution and dried over anhydrous sodium sulfate. Thereafter, 20% hydrogen chloride in ethyl acetate is added and the resulting crystals are collected by filtration and recrystallized from ethanol to give 5.6 g (80%) of N-[3-{(1,4-benzodioxan-2-ylmethyl)amino}propyl]-3,4-methylenedioxyaniline.

reactant | lithium aluminum hydride | 1.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-[3-{(1,4-benzodioxan-2-yl}methyl)amino propionyl]-3,4-methylenedioxyaniline | 6.0 g | O1C(COC2=C1C=CC=C2)CNCCC(=O)NC2=CC1=C(C=C2)OCO1 | C19H20N2O5
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-[3-{(1,4-benzodioxan-2-ylmethyl)amino}propyl]-3,4-methylenedioxyaniline | 5.6 g, 80% | O1C(COC2=C1C=CC=C2)CNCCCNC2=CC1=C(C=C2)OCO1 | C19H22N2O4
